US06225330B1
trans-N2-[4-(Aminomethyl)cyclohexyl]-9-fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta[d][1,3]thiazol-2-amine:
A solution of trans-tert-butyl N-({4-[(9-fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta[d][1,3]thiazol-2-yl)amino]cyclohexyl}-methyl)carbamate (34.5 g, 77.0 mmol) in 200 ml EtOAc and 100 ml 4N HCl in dioxane was stirred at room temperature for 2 hours. The resulting solid was collected by filtration and the solid product washed with Et2O and dried under vacuum to yield 25.9 g of the desired product as a pale yellow solid. An additional 1.43 g of the product was obtained by allowing the filtrate to stand in a closed flask for several days. The overall yield was 85%: 1H-NMR (CD3OD) δ 1.25 (2H, m), 1.51 (2H, m), 1.70 (1H, broad), 1.95 (2H, m), 2.18 (4H, m), 2.80 (6H, m), 3.63 (1H, broad), 7.11 (1H, dt, J=2.5 Hz, 8.4 Hz), 7.36 (2H, m); 346 (ESMS, MH+).

reactant | trans-tert-butyl N-({4-[(9-fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta[d][1,3]thiazol-2-yl)amino]cyclohexyl}-methyl)carbamate | 77.0 mmol, 34.5 g | FC1=CC2=C(CCCC3=C2N=C(S3)N[C@@H]3CC[C@H](CC3)CNC(OC(C)(C)C)=O)C=C1 | C24H32FN3O2S
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | HCl | 4N, 100 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | trans-N2-[4-(Aminomethyl)cyclohexyl]-9-fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta[d][1,3]thiazol-2-amine | 25.9 g | NC[C@@H]1CC[C@H](CC1)NC=1SC2=C(N1)C1=C(CCC2)C=CC(=C1)F | C19H24FN3S
